data/oMe_Silver.jsonl
{"reaction_id": "NR-236_1-c1ccccc1_2-c1ccc([N+](=O)[O-])cc1","level": "medium","name": "Sommelet Reaction","reactants_smiles": ["c1ccccc1C(c1ccc([N+](=O)[O-])cc1)Br","C1N2CN3CN1CN(C2)C3"],"products_smiles": ["c1ccccc1C(c1ccc([N+](=O)[O-])cc1)=O"],"conditions": "H2O","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1N2CN3CN1C[N+](C(c1ccccc1)(c1ccc([N+](=O)[O-])cc1))(C2)C3","step_weight": 0,"rationale": "The benzylic carbon is highly electrophilic due to resonance stabilization of the developing cation, and bromide is a good leaving group, enabling nucleophilic substitution by hexamine to form a stable quaternary ammonium salt."},{"step": 2,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C1N2[CH2]N(C[N+]1=[CH2])CN(C2)C(c1ccccc1)(c1ccc([N+](=O)[O-])cc1)","step_weight": 0,"rationale": "The quaternary ammonium salt undergoes [2,3]-sigmatropic rearrangement driven by relief of ring strain and formation of a conjugated iminium system, which is stabilized by adjacent aromatic or electron-donating effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH2]1N2CN(C[N]1C)C[N+](C2)=C(c1ccccc1)(c1ccc([N+](=O)[O-])cc1)","step_weight": 0,"rationale": "Water, abundant under the reaction conditions, attacks the electrophilic iminium carbon due to its strong partial positive charge, forming a carbinolamine intermediate stabilized by adjacent nitrogen."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccccc1C(c1ccc([N+](=O)[O-])cc1)=O","step_weight": 0,"rationale": "The carbinolamine eliminates the amine, favored by the stability of the departing amine and the formation of a strong C=O bond in the aldehyde product."}],"description": "Hexamine attacks the benzylic bromide to form a stable quaternary ammonium salt, which rearranges via a [2,3]-sigmatropic shift to an iminium ion. Hydrolysis under aqueous conditions converts the iminium to a carbinolamine, which eliminates amine to yield the aldehyde."}
{"reaction_id": "NR-044_1-C_2-C1CC1_3-C_4-C#CC_5-C1CCCCC1_6-C(c1ccccc1)c2ccccc2","name": "Cope Elimination","level": "easy","reactants_smiles": ["[CH](C)(C1CC1)C(C)(C#CC)[N+](C1CCCCC1)(C(c1ccccc1)c2ccccc2)[O-]"],"products_smiles": ["C(C)(C1CC1)=C(C)(C#CC)","O[N](C1CCCCC1)(C(c1ccccc1)c2ccccc2)"],"conditions": "$heating$","mechnism_text_description": "The Cope elimination is a thermal intramolecular syn-stereospecific elimination of amine oxides yielding alkenes and N,N-dialkylhydroxylamines. The mechanism is concerted, involving a five-membered cyclic transition state where the oxygen of the amine oxide abstracts a $\\beta$-hydrogen. This proton abstraction, C=C double bond formation, and C-N bond cleavage (releasing N,N-dialkylhydroxylamine as the effective leaving group) occur simultaneously in a single step. While it's an elimination reaction, its concerted cyclic nature gives it pericyclic character, often compared to a [1,5]-sigmatropic hydrogen shift or an ene-like reaction.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(C1CC1)=C(C)(C#CC).O[N](C1CCCCC1)(C(c1ccccc1)c2ccccc2)","step_weight": 0,"rationale": "Thermal energy promotes a concerted syn-elimination where the amine oxide oxygen, being nucleophilic and well-positioned, abstracts the β-hydrogen. Simultaneous C–N bond cleavage is favored by the stability of the N,N-dialkylhydroxylamine leaving group and the relief of steric strain."}],"description": "Upon heating, the amine oxide undergoes a concerted syn-elimination via a five-membered cyclic transition state. The oxygen abstracts a β-hydrogen while the C–N bond breaks and a C=C double bond forms, yielding the alkene and N,N-dialkylhydroxylamine."}
